US08227492B2
Step 2: Preparation of (−)-S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl sulfoximide
To a stirring solution of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(1-tert-butoxycarbonyl-pyrrolidin-2-carbonyl)sulfoximide (1.2 g, 0.00182 mol, nonpolar isomer) in methanol (4 mL) was added conc. sulfuric acid (0.7 g, 0.00728 mol) at 5-10° C. The reaction mixture was stirred at 25-30° C. for 4 hr and then diluted with water. Product obtained was extracted in chloroform at 8-9 pH. Organic layer was dried and concentrated to give 640 mg of titled product in 63% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(1-tert-butoxycarbonyl-pyrrolidin-2-carbonyl)sulfoximide | 0.00182 mol, 1.2 g | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NC(=O)C1N(CCC1)C(=O)OC(C)(C)C)C | C30H31Cl2N5O6S
reactant | sulfuric acid | 0.00728 mol, 0.7 g | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 4 mL | CO | CH4O
solvent | water | O | H2O
product | (−)-S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl sulfoximide | 640 mg, 63% yield | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=N)C | C20H16Cl2N4O3S
